US04788207
Under a dry nitrogen atmosphere, a stirred mixture of 0.70 gram (0.0036 mole) of 1-trimethylsilyl-2-(5-methylthien-2-yl)ethyne, 0.11 gram (0.0040 mole) of tetrabutylammonium fluoride, and 0.24 gram (0.0041 mole) of potassium fluoride in 7 ml of acetonitrile and 20 ml of triethylamine was heated at reflux for one hour. To this mixture was added 1.0 gram (0.0033 mole) of 2-(4-trifluoromethylphenyl)-5-iodothiazole, 0.03 gram (4.0×10-4 mole) of dichlorobis(triphenylphosphine)palladium (II), and 0.02 gram (8.0×10-4 mole) of copper (I) iodide. This mixture was stirred at reflux for approximately 18 hours. The mixture was cooled and was diluted with diethyl ether. This mixture was washed in succession with an aqueous, saturated ammonium chloride solution, water, dilute hydrochloric acid, and an aqueous, saturated sodium chloride solution. The washed organic solution was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a solid residue. This residue was purified by column chromatography on silica gel, eluting first with methylene chloride:hexane (50:50), then methylene chloride: hexane (50:40), and finally acetone:hexane (10:90), to yield 0.32 gram of 1-[2-(4-trifluoromethylphenyl)thiazol-5-yl]-2-(5-methylthien-2-yl)ethyne as a solid, m.p. 107°-108.5° C., Compound 33 of Table 1.

reactant | 1-trimethylsilyl-2-(5-methylthien-2-yl)ethyne | 0.0036 mole, 0.70 gram | C[Si](C#CC=1SC(=CC1)C)(C)C | C10H14SSi
reactant | tetrabutylammonium fluoride | 0.0040 mole, 0.11 gram | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | potassium fluoride | 0.0041 mole, 0.24 gram | [F-].[K+]
reactant | 2-(4-trifluoromethylphenyl)-5-iodothiazole | 0.0033 mole, 1.0 gram | FC(C1=CC=C(C=C1)C=1SC(=CN1)I)(F)F | C10H5F3INS
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | dichlorobis(triphenylphosphine)palladium | 4.0×10-4 mole, 0.03 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 8.0×10-4 mole, 0.02 gram | [Cu]I
product | 1-[2-(4-trifluoromethylphenyl)thiazol-5-yl]-2-(5-methylthien-2-yl)ethyne | 0.32 gram | FC(C1=CC=C(C=C1)C=1SC(=CN1)C#CC=1SC(=CC1)C)(F)F | C17H10F3NS2
